US04963557
EXAMPLE 6: 2-PROPYLPENTANAL
A Parr hydrogenation bottle was charged with 10% palladium on carbon (0.1 equivalent) and ethyl acetate. A solution of 2-propylpent 4 enal, prepared as in Example 5, in ethyl acetate was added. The mixture was hydrogenated at 300N/m2 hydrogen in a Parr hydrogenation apparatus at room temperature until hydrogen uptake ceased. The catalyst was removed by filtration through celite. The filtrate was concentrated to give the desired product as a colorless oil. The product was used without further purification.

reactant | 2-propylpent 4 enal | C(CC)C(C=O)CC=C | C8H14O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.1 equivalent | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-PROPYLPENTANAL | C(CC)C(C=O)CCC | C8H16O
